US04916157
N-(2,3-dimethylnaphthyl)-N-ethoxyacetyl-alanine methyl ester [=compound 1.75].
During 30 minutes 0.07 g-moles of ethoxyacetyl chloride, dissolved in 20 ml of toluene, and 0.07 g-moles of triethylamine, dissolved in 20 ml of toluene, are dropped at room temperature simultaneously to 0.06 g-moles of N-(2,3-dimethylnaphthyl)-alanine methyl ester, dissolved in 100 ml of toluene. Thereby the temperature rises to 43°. The reaction mixture is then stirred at about 40° during 12 hours. From the resulting yellow suspension the inorganic salt is filtered off and the filtrate is washed with water until neutral. Then the organic phase is dried over sodium sulfate and concentrated by evaporation. The crude oil is purified by column chromatography using silicagel 60 and diethylether as the eluant. After removal of the solvent 18.8 g (=91% of theory) of the final product are obtained in crystallised form, m.p. 96° to 108°.

reactant | ethoxyacetyl chloride | C(C)OCC(=O)Cl | C4H7ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | N-(2,3-dimethylnaphthyl)-alanine methyl ester | COC([C@@H](NC1=C(C(=CC2=CC=CC=C12)C)C)C)=O | C16H19NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,3-dimethylnaphthyl)-N-ethoxyacetyl-alanine methyl ester | COC([C@@H](N(C(COCC)=O)C1=C(C(=CC2=CC=CC=C12)C)C)C)=O | C20H25NO4
